US07807720B2
(R)-3-(6-(4-fluoro-3-methylbenzyloxy)hexanoyl)-4-benzyloxazolidin-2-one (B4)
To a cooled (−10° C.) solution of 6-(4-fluoro-3-methylbenzyloxy)hexanoic acid (0.565 g, 2.222 mmol) in 15 mL of THF, were added stepwise triethylamine (0.80 mL, 5.713 mmol) and pivaloyl chloride (0.27 mL, 2.179 mmol). The reaction mixture was stirred at −10° C. for 1 h and then LiCl (0.092 g, 2.179 mmol) and (R)-4-benzyloxazolidin-2-one (0.375 g, 2.116 mmol) were added stepwise. After warmed slowly to room temperature with stirring overnight, the reaction mixture was diluted with ethyl acetate (80 mL) and washed with saturated NaHCO3 solution and brine. The organic layer was dried (Na2SO4), filtered, and concentrated under reduced pressure. The product was isolated by Flash column chromatography (silica gel column) eluting with 0-100% dichloromethane/hexanes to give the title compound as colorless oil (0.482 g, 52% yield). LC-MS: tR=11.2 min; m/z 414 (M+H)+.

reactant | 6-(4-fluoro-3-methylbenzyloxy)hexanoic acid | 2.222 mmol, 0.565 g | FC1=C(C=C(COCCCCCC(=O)O)C=C1)C | C14H19FO3
reactant | triethylamine | 5.713 mmol, 0.80 mL | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 2.179 mmol, 0.27 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | LiCl | 2.179 mmol, 0.092 g | [Li+].[Cl-]
reactant | (R)-4-benzyloxazolidin-2-one | 2.116 mmol, 0.375 g | C(C1=CC=CC=C1)[C@H]1NC(OC1)=O | C10H11NO2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | (R)-3-(6-(4-fluoro-3-methylbenzyloxy)hexanoyl)-4-benzyloxazolidin-2-one | 0.482 g, 52% yield | FC1=C(C=C(COCCCCCC(=O)N2C(OC[C@H]2CC2=CC=CC=C2)=O)C=C1)C | C24H28FNO4
